US08293925B2
To methyl 1-(2,6-dimethylphenyl)-5-oxopyrrolidine-3-carboxylate (1.5 g, 6.1 mmol) dissolved in 5 mL anhydrous THF and cooled to −40° C., lithium bis(trimethylsily)amide (1.0 M in THF, 6.1 mL, 6.1 mmol) was added with a syringe. After stirring for 10 min, the bath was replaced with a 0° C. bath and stirring continued for another 10 min. The reaction mixture was then cooled to −40° C. and another 6.1 mL of lithium bis(trimethylsily)amide solution (6.1 mmol) was added. After stirring for 10 min at −40° C., the reaction mixture was allowed to gradually warm to room temperature, quenched with saturated ammonium chloride solution (15 ml) and the crude product was extracted with ether. The combined organic layer was dried over anhydrous Na2SO4, the solvent was evaporated and the residue purified by flash chromatography (SiO2, 10-100% EtOAc/hexanes) to yield 920 mg of methyl 2-(2,6-dimethylphenyl)-1-oxooctahydrocyclopenta[c]pyrrole-3a-carboxylate (32% yield). LC-MS Rt (retention time): 2.12 min, MS: (ES) m/z 288 (M+H+).

reactant | methyl 1-(2,6-dimethylphenyl)-5-oxopyrrolidine-3-carboxylate | 6.1 mmol, 1.5 g | CC1=C(C(=CC=C1)C)N1CC(CC1=O)C(=O)OC | C14H17NO3
reactant | lithium bis(trimethylsily)amide | 6.1 mmol, 1.0 M, 6.1 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | lithium bis(trimethylsily)amide | 6.1 mmol, 6.1 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | THF | 5 mL | C1CCOC1 | C4H8O
product | methyl 2-(2,6-dimethylphenyl)-1-oxooctahydrocyclopenta[c]pyrrole-3a-carboxylate | 920 mg, 32% yield | CC1=C(C(=CC=C1)C)N1C(C2C(C1)(CCC2)C(=O)OC)=O | C17H21NO3
